US07592456B2
Step 2: 1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}benzyl)-1H-1,2,4-triazole
Prepared according to the method of Example 6 Step 4 using 1-(2-iodobenzyl)-1H-1,2,4-triazole and sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate, to give the title compound as a white solid (11 mg). 1H NMR (500 MHz, d6-DMSO): δ 8.78 (1H, s), 8.59 (1H, s), 8.37 (1H, s), 8.32 (1H, d, J=8.6 Hz), 8.25-8.19 (2H, m), 8.05 (1H, dd, J=1.7, 8.5 Hz), 7.94-7.90 (3H, m), 7.86 (1H, dd, J=1.8, 8.6 Hz), 7.71-7.65 (2H, m), 7.38 (2H, t, J=8.8 Hz), 6.88 (1H, d, J=6.8 Hz), 5.81 (2H, s); m/z (ES+) 444 [MH+].

reactant | 1-(2-iodobenzyl)-1H-1,2,4-triazole | IC1=C(CN2N=CN=C2)C=CC=C1 | C9H8IN3
reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
product | 1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}benzyl)-1H-1,2,4-triazole | 11 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(CN2N=CN=C2)C=CC=C1 | C25H18FN3O2S
